US07459562B2
To a solution of ethyl 2-(4-fluorobenzylthio)acetate (1.89 g, 8.29 mmol) in DCM (20.0 mL) at −40° C. was added a solution of m-CPBA (77%, 1.86 g, 8.29 mmol) in DCM (20.0 mL) dropwise. The solution was stirred from −40° C. to room temperature overnight. The solution was then quenched with polymer bound diethylene triamine. After filtration and concentration, the residue was purified by flash chromatography on SiO2 to give ethyl 2-(4-fluorobenzylsulfinyl)acetate (2.0 g, 98% yield). MS(ESI+): m/z 267.09 (M+H)+.

reactant | ethyl 2-(4-fluorobenzylthio)acetate | 8.29 mmol, 1.89 g | FC1=CC=C(CSCC(=O)OCC)C=C1 | C11H13FO2S
reactant | m-CPBA | 8.29 mmol, 1.86 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 20.0 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20.0 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-(4-fluorobenzylsulfinyl)acetate | 2.0 g, 98% yield | FC1=CC=C(CS(=O)CC(=O)OCC)C=C1 | C11H13FO3S
